US07504408B2
N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-{3-[4-(2-fluoroethyl)piperazin-1-yl]propoxy}-6-methoxyquinazolin-4-amine
N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine (0.165 g) was dissolved in 2-methoxyethanol (5 ml) and then fluoroethyl piperazine (0.821 g) was added followed by diisopropylethylamine (0.83 ml) and the mixture heated to 110° C. for 15 hours. The reaction mixture was cooled to room temperature, diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate and then evaporated. The residue was purified by column chromatography on silica using increasingly polar mixtures of dichloromethane and methanol with methanolic ammonia as eluent. There was thus obtained the title compound (0.092 g) as a white powder, contaminated with approximately 5 wt. % diisopropylethylamine; NMR Spectrum: (CDCl3) 2.15 (quin, 2H), 2.63 (m(broad), 12H, ), 2.69 (t, 1H), 2.76 (t, 1H), 3.46 (s, 3H), 3.99 (s, 3H), 4.35 (s, 2H), 4.52 (t, 1H), 4.64 (t, 1H), 6.07 (s, 2H), 6.96 (s, 1H), 7.07 (s, 1H), 7.12 (s, 1H), 7.28 (s, 1H), 8.62 (s, 1H); Mass Spectrum: M+H+ 586/588.

reactant | N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-(3-chloropropoxy)-6-methoxyquinazolin-4-amine | 0.165 g | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C23H21Cl2N3O5
reactant | fluoroethyl piperazine | 0.821 g | FCCN1CCNCC1 | C6H13FN2
reactant | diisopropylethylamine | 0.83 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 2-methoxyethanol | 5 ml | COCCO | C3H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[5-chloro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-7-{3-[4-(2-fluoroethyl)piperazin-1-yl]propoxy}-6-methoxyquinazolin-4-amine | 0.092 g | ClC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)CCF | C29H33ClFN5O5
